US05342835
A mixture of ethyl 2-(3,4-dimethoxybenzoyl)-5-oxo-5-phenylvalerate (compound no. 314; 7.7 g; 0.02 mole), ammonium acetate (3.1 g; 0.04 mole) and acetic acid (30 ml) is heated to reflux temperature for 4 hours. The reaction medium is poured into water (300 ml): an oil is released. The latter is extracted with ethyl acetate (200 ml). The organic solution is washed with water (3×100 ml), then dried over anhydrous magnesium sulphate and concentrated under reduced pressure. A light brown oil (4.5 g; yield: 62%) is obtained which corresponds to ethyl 2-(3,4-dimethoxyphenyl)-6-phenylnicotinate.

reactant | ethyl 2-(3,4-dimethoxybenzoyl)-5-oxo-5-phenylvalerate | 0.02 mole, 7.7 g | COC=1C=C(C(=O)C(C(=O)OCC)CCC(C2=CC=CC=C2)=O)C=CC1OC | C22H24O6
reactant | ammonium acetate | 0.04 mole, 3.1 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 300 ml | O | H2O
product | ethyl 2-(3,4-dimethoxyphenyl)-6-phenylnicotinate | yield: 62% | COC=1C=C(C=CC1OC)C1=C(C(=O)OCC)C=CC(=N1)C1=CC=CC=C1 | C22H21NO4
